US05430153
3-Acetyl-4-isoamylamino-6-fluoro-8-chloro-2-quinolinone (673)
3-Acetyl-8-chloro-6-fluoro-4-methylsulfoxy-2-quinolinone (3.02g, 0.01 mol) and isoamylamine (0.87g, 0.01 mol) were used, but the reaction was carried out as the above process of example 37 to obtain the desired product (2.79g, yield: 86% ).

reactant | 3-Acetyl-8-chloro-6-fluoro-4-methylsulfoxy-2-quinolinone | 0.01 mol, 3.02g | C(C)(=O)C=1C(NC2=C(C=C(C(=C2C1C)OS(=O)(=O)O)F)Cl)=O | C12H9ClFNO6S
reactant | isoamylamine | 0.01 mol, 0.87g | C(CC(C)C)N | C5H13N
product | 3-Acetyl-4-isoamylamino-6-fluoro-8-chloro-2-quinolinone | 2.79g, yield: 86% | C(C)(=O)C=1C(NC2=C(C=C(C=C2C1NCCC(C)C)F)Cl)=O | C16H18ClFN2O2
